Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting 
 
Major Surgical or Invasive Procedure:
ERCP with stone and sludge removal ___

 
History of Present Illness:
Mr. ___ is a ___ man with PMH notable for CVA, HTN, 
CAD s/p PCI, who presented initially to ___ with 
N/V, abdominal pain, subsequently found to have cholestatic LFT 
derangements with 1cm CBD stone on US, now transferred for 
consideration of ERCP. 

At approximately 6pm last evening, the patient developed the 
acute onset of severe abdominal pain with associated NBNB 
vomiting. Denies fevers and no mental status change per family. 
Given these symptoms, he presented initially to ___ 
___ were work up was notable for leukocytosis with a WBC of 
14, 274 AST 182 Alk phos 267 T Bili 2.9, Direct Bili 2.1. RUQ-US 
demonstrated a 1cm obstructing CBD stone. He was subsequently 
transferred to ___ for consideration of ERCP. 

Upon arrival to the ___ ED, initial vitals notable for T98.0, 
HR 96, BP 112/65, RR 16, 91% on RA. Labs notable for lactate of 
3.1, worsening leukocytosis with WBC now 17, and rising tbili of 
4.2. Due to soft BPs (98/50), the patient was given 1L LR and 
4.5g Zosyn x1. Vitals stable on transfer. 

On arrival to the floor, the patient confirms the above history 
and states that his abdominal pain is much improved and 
responded to morphine given in the ED. He does report 
intermittent rigors both at home and the outside hospital, but 
does not recall having any actual fevers. No further vomiting 
since arrival. 

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
CAD s/p PCI 
HTN 
HLD 
remote CVA without residual deficits
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
ADMISSION: 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs diminished at bilateral bases, otherwise clear to 
auscultation with good air movement bilaterally.  Breathing is 
non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation in 
upper quadrants and epigastric region.  Bowel sounds hypoactive. 

GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted; tattoos on upper 
extremities
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE: 
VS: Temp: 98.3 PO BP: 136/70 L Sitting HR: 71 RR: 18 O2 sat: 93% 
RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs diminished at bilateral bases, otherwise clear to 
auscultation with good air movement bilaterally.  Breathing is 
non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation in 
upper quadrants and epigastric region.  Bowel sounds hypoactive. 

GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted; tattoos on upper
extremities
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
==========================
___ 03:57AM BLOOD WBC-17.1* RBC-4.32* Hgb-14.1 Hct-40.9 
MCV-95 MCH-32.6* MCHC-34.5 RDW-13.4 RDWSD-46.7* Plt ___
___ 03:57AM BLOOD Neuts-91.2* Lymphs-1.9* Monos-5.9 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-15.58* AbsLymp-0.32* 
AbsMono-1.00* AbsEos-0.00* AbsBaso-0.03
___ 03:57AM BLOOD Glucose-167* UreaN-16 Creat-1.2 Na-144 
K-3.7 Cl-105 HCO3-22 AnGap-17
___ 04:08AM BLOOD Lactate-3.2*

LFT trend
---------
___ 03:57AM BLOOD ALT-225* AST-173* AlkPhos-216* 
TotBili-4.2*
___ 06:20AM BLOOD ALT-189* AST-133* AlkPhos-166* 
TotBili-6.0*
___ 07:05AM BLOOD ALT-163* AST-100* AlkPhos-192* 
TotBili-2.8*

MICRO: 
=====
___ 3:57 am BLOOD CULTURE      #1 SOURCE: VENIPUNCTURE. 
   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING/OTHER STUDIES: 
=====================
Please contact ___ for ultrasound and CT abdomen. 

___ ERCP (full report available upon request)
Procedure notable for removal of stones and sludge from CBD. 

LABS AT DISCHARGE: 
==================
___ 07:05AM BLOOD WBC-6.4 RBC-4.07* Hgb-13.0* Hct-38.6* 
MCV-95 MCH-31.9 MCHC-33.7 RDW-13.2 RDWSD-46.5* Plt ___
___ 07:05AM BLOOD Glucose-108* UreaN-14 Creat-1.0 Na-143 
K-4.1 Cl-105 HCO3-28 AnGap-10
___ 07:05AM BLOOD ALT-163* AST-100* AlkPhos-192* 
TotBili-2.8*
 
Brief Hospital Course:
Mr. ___ is a ___ man with ___ notable for CVA, HTN, 
CAD s/p PCI, who presented initially to ___ with 
N/V, abdominal pain, subsequently found to have cholestatic LFT 
derangements with 1cm CBD stone on US, now transferred for 
consideration of ERCP.

ACUTE/ACTIVE PROBLEMS:
# Acute Cholangitis: 
Presented with acute onset abdominal pain, nausea, vomiting, and 
intermittent rigors with marked leukocytosis on labs. OSH 
imaging with 1 cm stone obstructing CBD. Patient given IV Zosyn 
at OSH and again in ED. Cultures pending. Underwent ERCP on 
___ with removal of stones/sludge. Initially treated with 
Zosyn 4.5g q8h and transitioned to PO cipro/flagyl to complete a 
total 5 days following ERCP. Patient HD stable without fevers or 
recurrent rigors. Labs with resolved leukocytosis and 
downtrending tbili on discharge. Offered patient surgical 
evaluation for cholecystectomy this admission but patient 
preferred to defer CCY until early ___. He was given the 
phone number to arrange an appointment with our general surgeons 
for outpatient evaluation. 

# Acute hypoxemic respiratory failure: 
Developed oxygen requirement in setting of inability to take 
deep breaths due to abdominal pain and IVF resuscitation. No hx 
of CHF or COPD. Able to wean to room air with assistance of 
incentive spirometer. 

CHRONIC/STABLE PROBLEMS: 
# HTN: held home agents in setting of acute cholangitis; resumed 
___. 

# CAD: continued statin; metop initially held in setting of 
hypotension, resumed prior to discharge. 

# hx of CVA: Remote; no residual deficits. Continued ASA 325mg

TRANSITIONAL ISSUES: 
===================
[] discharged to complete a course of antibiotics (cipro, 
flagyl) for cholangitis (last day ___. 
[] strongly recommended surgical follow up for elective 
cholecystectomy. Contact information for ___ general surgery 
provided. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
2. Aspirin 325 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*14 Tablet Refills:*0 
3.  Aspirin 325 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Lisinopril 20 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# acute cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege to care for you at the ___ 
___. You were treated for a very serious infection of 
your bile duct, known as cholangitis. Fortunately, you responded 
very well to treatment with antibiotics and a procedure called 
ERCP. We recommended removal of your gallbladder and you decided 
to pursue this as an elective procedure. It is very important 
that you make an appointment with the surgeons by calling the 
number below. 

Please take all medications as prescribed and follow up with all 
appointments. 

We wish you the best! 

Sincerely,
Your ___ Team 
 
Followup Instructions:
___